US06504058B1
Preparation of (R)-2-[2-(2,5-difluorophenoxy)-1-methylethyl]-1H-isoindole-1,3(2H)-dione
(R)-2-(2-Hydroxy-1-methylethyl)-1H-isoindole 1,3(2H)-dione (Becker, Y. J. J. Org. Chem. 1980, 45, 2145-51) was diluted with 40 mL THF then treated in order with 7.0 g triphenyl phosphine, 4.0 g of 2,5-difluorophenol and finally with 5.0 mL of diethylazocarboxylate. The reaction became warm to the point of reflux and was allowed to cool to room temperature and stirred at room temperature overnight. The solvent was removed in vacuo and the resulting brown oil was taken up in ethyl acetate (EtOAc). The solution was washed sequentially with aqueous sodium bicarbonate, aqueous ammonium chloride, and brine. Removal of the solvent gave an oil which was chromatographed on silica gel, eluting with 10% ethyl acetate-hexane, to afford 5.4 g of the title compound of Step A as a clear colorless oil: 1H NMR (CDCl3) δ1.57 (d, 3H), 4.22 (dd, 1H), 4.57 (t, 1H), 4.82 (m, 1H), 6.55 (m, 1H), 6.70 (m, 1H), 6.95 (m, 1H), 7.72 (m, 2H), 7.82 (m, 2H).

reactant | (R)-2-(2-Hydroxy-1-methylethyl)-1H-isoindole 1,3(2H)-dione | OC[C@@H](C)N1C(C2=CC=CC=C2C1=O)=O | C11H11NO3
reactant | triphenyl phosphine | 7.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,5-difluorophenol | 4.0 g | FC1=C(C=C(C=C1)F)O | C6H4F2O
reactant | diethylazocarboxylate | 5.0 mL | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (R)-2-[2-(2,5-difluorophenoxy)-1-methylethyl]-1H-isoindole-1,3(2H)-dione | 5.4 g | FC1=C(OC[C@@H](C)N2C(C3=CC=CC=C3C2=O)=O)C=C(C=C1)F | C17H13F2NO3
